US07875728B2
Preparation of 5-(4-methoxybenzyl)-4-(phenylhydrazono)-4H-pyrazol-3-ylamine
To a warm suspension of 4-(4-methoxyphenyl)-3-oxo-2-(phenylhydrazono)butyronitrile (1 g, 3.4 mmol) in ethanol was slowly added a solution of hydrazine hydrate (204 mg, 4.08 mmol) in 10 mL of ethanol. The solution was heated to reflux and a brownish clear solution was obtained. After 2 hours of reflux, the solvent was removed in vacuo. The obtained oil was dissolved with minimum amount of isopropanol, and a yellow powder was precipitated by the addition of water. The title compound was isolated by filtration in a yield of 560 mg. The filtrate was further purified by column chromatography (CH2Cl2:MeOH=15:1) and an additional 370 mg of the title compound was obtained. The total yield was 92%. MS (m/z, ES+): 308 (M+1, 100%); 1H NMR (ppm, CDCl3) δ 7.77 (m, 2H), 7.43 (m, 2H), 7.38 (m, 1H), 7.21 (d, 2H), 6.86 (d, 2H), 5.41 (br s, 2H), 4.30 (s, 2H), 3.79 (s, 3H).

reactant | 4-(4-methoxyphenyl)-3-oxo-2-(phenylhydrazono)butyronitrile | 3.4 mmol, 1 g | COC1=CC=C(C=C1)CC(C(C#N)=NNC1=CC=CC=C1)=O | C17H15N3O2
reactant | hydrazine hydrate | 4.08 mmol, 204 mg | O.NN
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 10 mL | C(C)O | C2H6O
product | 5-(4-methoxybenzyl)-4-(phenylhydrazono)-4H-pyrazol-3-ylamine | yield was 92% | COC1=CC=C(CC=2C(C(=NN2)N)=NNC2=CC=CC=C2)C=C1 | C17H17N5O
